US08865934B2
In the present invention, the starting material 2-hydrazinylphenol may be in tosylate form. The 2-hydrazinylphenol in tosylate form can be prepared by a process comprising the steps of: (a) dissolving 2-aminophenol in methanol and adding hydrochloride gas thereto to obtain 2-aminophenol hydrochloride (HCl); (b) dissolving the 2-aminophenol hydrochloride in ethanol and adding isopentyl nitrite thereto to make a nitramide intermediate; and (c) adding the intermediate to an ethanol solution containing para-toluenesulfonic acid (PTSA or TsOH) and tin chloride (SnCl2), thereby obtaining 2-hydrazinylphenol tosylate.

reactant | 2-hydrazinylphenol | N(N)C1=C(C=CC=C1)O | C6H8N2O
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | hydrochloride | Cl | ClH
solvent | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
solvent | methanol | CO | CH4O
product | 2-aminophenol hydrochloride | Cl.NC1=C(C=CC=C1)O | InChI=1S/C6H7NO.ClH/c7-5-3-1-2-4-6(5)8;/h1-4,8H,7H2;1H
